US04918089
To a solution of 2-(3-furyl)aminoacetonitrile (1.46 g; 12 mmol) and triethylamine (1.20 g; 12 mmol) in tetrahydrofuran (30 ml) was added slowly a solution of 2,4-dimethylthiazole-5-carbonyl chloride (1.75 g; 10 mmol) in tetrahydrofuran (10 ml) with ice-cooling. After the addition, the mixture was turned to room temperature and stirring was continued for 3 hours. The solvent was removed under reduced pressure to separate the residue. Water was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude oil. The oil was purified by silica-gel column chromatography (eluent:n-hexane:ethyl acetate=2:1 by volume) to give 1.93 g of 2-(2,4-dimethylthiazole-5-carboxamido)-2-(3-furyl)acetonitrile as colorless crystals. m.p., 94°-96° C. Yield, 74%.

reactant | 2-(3-furyl)aminoacetonitrile | 12 mmol, 1.46 g | O1C=C(C=C1)NCC#N | C6H6N2O
reactant | triethylamine | 12 mmol, 1.20 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dimethylthiazole-5-carbonyl chloride | 10 mmol, 1.75 g | CC=1SC(=C(N1)C)C(=O)Cl | C6H6ClNOS
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,4-dimethylthiazole-5-carboxamido)-2-(3-furyl)acetonitrile | 1.93 g | CC=1SC(=C(N1)C)C(=O)NC(C#N)C1=COC=C1 | C12H11N3O2S
